US04385006
A solution of 15.4 g (0.1 mole) of 97% phenylglyoxylic acid, 150 g (3 moles) of 34% pure ammonia solution, 1.75 g (0.007 mole) of pentahydrated cupric sulfate and 6 g (0.15 mole) of sodium hydroxide in pellets are heated for 1 hour at 100° C. in an oxygen atmosphere, under agitation, and with a total pressure of 8 bars. Thereafter, after cooling to the ambient temperature, the reaction medium is filtered, thereby isolating 1.05 g (0.0086 mole) of benzamide, M.p.=128°-129° C. The alkaline filtrate is thereafter submitted to repeated extractions with ether.

reactant | phenylglyoxylic acid | 0.1 mole, 15.4 g | C1(=CC=CC=C1)C(C(=O)O)=O | C8H6O3
reactant | ammonia | 3 moles, 150 g | N | H3N
reactant | sodium hydroxide | 0.15 mole, 6 g | [OH-].[Na+]
reactant | oxygen | O=O | O2
product | benzamide | 0.0086 mole, 1.05 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
